US05210239
2,4-Diethoxy-3-methoxy-6-methylphenol
53 g of 3,5-diethoxy-2-hydroxy-3-methoxybenzoic acid prepared in Referential Example 5 and 45.5 g of triethylamine were dissolved in 400 ml of THF, and 48.4 g of ethyl chlorocarbonate in 100 ml of THF was dropwise added thereto with ice cooling while stirring. After the completion of the dropwise addition, the formed crystals were separated by filtration and washed with 100 ml of THF. The mother liquor was combined with the wash liquid, and a 10% aqueous solution of 30.3 g of sodium borohydride was added to the resultant solution and cooled by ice while stirring. After the completion of the dropwise addition, the mixture was stirred at room temperature for one hr, neutralized with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography (eluent: n-hexane :ethyl acetate=95.5) to prepare 40 g of the product compound as a colorless oleaginous substance.

reactant | 3,5-diethoxy-2-hydroxy-3-methoxybenzoic acid | 53 g | C(C)OC1(C(C(C(=O)O)=CC(=C1)OCC)O)OC | C12H18O6
reactant | triethylamine | 45.5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 48.4 g | C(OCC)(=O)Cl | C3H5ClO2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,4-Diethoxy-3-methoxy-6-methylphenol | C(C)OC1=C(C(=CC(=C1OC)OCC)C)O | C12H18O4
